US09238640B2
Preparation of 3-(2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)-5-phenylimidazolidine-2,4-dione
To a suspension of 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.50 g, 1.35 mmol) in THF (20 mL), were added 5-phenyl-imidazolidine-2,4-dione (0.24 g, 1.35 mmol) and triphenyl phosphine (0.35 g, 1.35 mmol), then diethyl azodicarboxylate (0.43 mL, 2.70 mmol) was added and the reaction mixture was stirred at room temperature for 16 hours. Solvent was evaporated in vacuo and the residue was washed with dichloromethane and ether. The residue was dissolved in acetic acid and purified by preparative HPLC. The compound was further washed with dichloromethane and ether (1:1, 20 mL) to obtain the title compound as a white solid. Yield: 0.07 g (10%). MP 219.6-221.4° C. 1H NMR (400 MHz, DMSO-d6): δ 8.81 (s, 1H), 7.86 (s, 2H), 7.37 (m, 5H), 6.71 (s, 1H), 6.48 (s, 1H), 3.94 (m, 4H), 3.86 (s, 3H), 3.82 (s, 3H), 2.18 (s, 6H). MS (ES) m/z: 529.29 (M++1).

reactant | 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 1.35 mmol, 0.50 g | OCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H22N2O5
reactant | 5-phenyl-imidazolidine-2,4-dione | 1.35 mmol, 0.24 g | C1(=CC=CC=C1)C1C(NC(N1)=O)=O | C9H8N2O2
reactant | triphenyl phosphine | 1.35 mmol, 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.70 mmol, 0.43 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)-5-phenylimidazolidine-2,4-dione | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC(=C(OCCN2C(NC(C2=O)C2=CC=CC=C2)=O)C(=C1)C)C)=O | C29H28N4O6
